US05135863
E. Preparation of m-(methyldithioethylamidomethoxy)phenyl acetone
To a solution of m-(carboxymethoxy)phenyl acetone (6.1 g, 0.029 mole) in N,N-dimethylformamide (56 ml, dried over molecular sieves, 3A) were added under nitrogen at 5° powdered 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDCI, 6.1 g, 0.032 mole) and N-hydroxysuccinimide (3.7 g, 0.032 mole). The resulting reaction mixture was then allowed to stir at 5° overnight. The complete formation of N-hydroxysuccinimic ester was observed. To the methyldithioethylamide hydrochloride (4.7 g, 0.029 mole, prepared in D above) in water (20-50 ml) was added triethylamine to adjust the pH to 8.5. Then the N-hydroxysuccinimic ester of m-(carboxymethoxy)phenyl acetone was added dropwise to the methyldithioethylamine solution with the adjustment of pH to 8.5, and the resulting solution was allowed to stir at 5° for 1 hour. Additional reagents, methyldithioethylamine hydrochloride (2 g, 0.0125 mole) and EDCI (3.0 g, 0.0156 mole), were added and the pH of the resulting solution was adjusted to 6.5 and the reaction mixture was allowed to stir at 5° overnight.

reactant | m-(carboxymethoxy)phenyl acetone | 0.029 mole, 6.1 g | C(=O)(O)COC=1C=C(C=CC1)CC(C)=O | C11H12O4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.032 mole, 6.1 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxysuccinimide | 0.032 mole, 3.7 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | methyldithioethylamide hydrochloride | 0.029 mole, 4.7 g | Cl.CSSCC[NH-]
reactant | methyldithioethylamine | CSSCCN | C3H9NS2
reactant | methyldithioethylamine hydrochloride | 0.0125 mole, 2 g | Cl.CSSCCN
reactant | EDCI | 0.0156 mole, 3.0 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 56 ml | CN(C=O)C | C3H7NO
solvent | water | 20-50 ml | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | m-(methyldithioethylamidomethoxy)phenyl acetone | CSSCC(=O)NCOC=1C=C(C=CC1)CC(C)=O | C13H17NO3S2
